US07148234B2
STEP 1. 1-[6-chloro-1-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1H-benzimidazol-2-yl]ethanol
The title compound was prepared according to the procedure described in Example 339, step 3 & Example 1, step 5 from 4-chloro-N2-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-benzenediamine and lactic acid.

reactant | 4-chloro-N2-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-benzenediamine | ClC=1C=C(C(=CC1C(F)(F)F)N)NC1=CC=C(C=C1)CCCl | C15H13Cl2F3N2
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
product | 1-[6-chloro-1-[4-(2-chloroethyl)phenyl]-5-(trifluoromethyl)-1H-benzimidazol-2-yl]ethanol | ClC=1C(=CC2=C(N(C(=N2)C(C)O)C2=CC=C(C=C2)CCCl)C1)C(F)(F)F | C18H15Cl2F3N2O
